US05840732
i) Synthesis of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]hydantoin
To a solution of 2.41 g (10.0 mmol) of 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine and 1.00 g (10.0 mmol) of hydantoin in 30 ml of N,N-dimethylformamide, 1.50 ml (10.0 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added, followed by stirring at 80° C. for 16 hours. After the reaction mixture was cooled, water was added; the mixture was extracted with ethyl acetate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, chloroform/methanol=20/1→10/1) to yield 1.27 g (41.7%, yellow solid) of the desired product.

reactant | 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine | 10.0 mmol, 2.41 g | ClCCCCSC1=CC=CC=2N1C=CN2 | C11H13ClN2S
reactant | hydantoin | 10.0 mmol, 1.00 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 10.0 mmol, 1.50 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]hydantoin | N=1C=CN2C1C=CC=C2SCCCCN2C(NCC2=O)=O | C14H16N4O2S
